US05118441
Step iii) Production of 5-dodecylthiophene-2-carbaldehyde
In a 1 liter-four-necked flask, 93.7 g (1.28 mol) of N,N-dimethylformamide was placed and cooled to 5° C., followed by addition of 107.4 g (7.00×10-1 mol) of POCl3 in 15 min. below 10° C. under stirring. After stirring for 30 min. below 10° C., 160 g (6.35×10-1 mol) of 2-dodecylthiophene was added dropwise to the mixture in 10 min. at room temperature, followed by stirring for 1.5 hours and further stirring for 2.5 hours at 60° C. After the reaction, the reaction mixture was poured into 2 liter of iced water, subjected to 3 times of extraction with 500 ml of chloroform and washed 6 times with 500 ml of water. The organic layer was dried on CaCl2, followed by distilling-off of the solvent to obtain 237 g of a crude product. The crude product was subjected to reduced-pressure distillation in an atmosphere of nitrogen to obtain 135 g of a product (yield: 75.9%). b.p.: 160° C./0.6 mmHg

reactant | N,N-dimethylformamide | 1.28 mol, 93.7 g | CN(C=O)C | C3H7NO
reactant | POCl3 | 7.00×10-1 mol, 107.4 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-dodecylthiophene | 6.35×10-1 mol, 160 g | C(CCCCCCCCCCC)C=1SC=CC1 | C16H28S
solvent | water | 2 liter | O | H2O
product | 5-dodecylthiophene-2-carbaldehyde | 135 g, yield: 75.9% | C(CCCCCCCCCCC)C1=CC=C(S1)C=O | C17H28OS
